US08492582B2
Tert-butyl 4-bromo-2-(5-phenylpyridine-3-carboxamido)benzoate (0.11 g), sodium carbonate (64 mg), water (0.30 mL), and bis(triphenylphosphine)palladium(II) dichloride (3.5 mg) were added to an ethylene glycol dimethyl ether (1.0 mL) solution of N,N-diethyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (83 mg), followed by heating to reflux under a nitrogen atmosphere for 2 hours and 40 minutes. The reaction mixture was cooled to room temperature, and then water and chloroform were added thereto. The organic layer was separated and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [eluent: 90-70% hexane/ethyl acetate] to obtain 0.12 g of tert-butyl 4-(3-(diethylamino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate as a yellow solid.

reactant | Tert-butyl 4-bromo-2-(5-phenylpyridine-3-carboxamido)benzoate | 0.11 g | BrC1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1 | C23H21BrN2O3
reactant | sodium carbonate | 64 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-diethyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 83 mg | C(C)N(C1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C)CC | C16H26BNO2
catalyst | bis(triphenylphosphine)palladium(II) dichloride | 3.5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
solvent | water | O | H2O
solvent | ethylene glycol dimethyl ether | 1.0 mL | COCCOC | C4H10O2
solvent | water | 0.30 mL | O | H2O
product | tert-butyl 4-(3-(diethylamino)phenyl)-2-(5-phenylpyridine-3-carboxamido)benzoate | 0.12 g | C(C)N(C=1C=C(C=CC1)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)NC(=O)C=1C=NC=C(C1)C1=CC=CC=C1)CC | C33H35N3O3
